US07217702B2
2-{2-[1(S)-Hydroxy-3(R)-methyl-1-cyclohexyl]ethyn-1-yl}-9-(2-methyl-thiazol-5-ylmethyl)-N6-(3-pentyl)adenine (31).
2-{2-[1-(S)-Hydroxy-3(R)-methyl-1-cyclohexyl]ethyn-1-yl}-N6-(3-pentyl)adenine (56 mg, 0.1640 mmol) and 4-chloromethyl-2-methylthiazole hydrochloride (127 mg, 0.6899 mmol) were stirred in DMF (8 mL) at 150° C. for 22 h. The reaction mixture was adhered to silica and purified by column chromatography, eluting with a gradient of DCM/MeOH (0–6%) to afford pure 31 as an off white solid: yield 2 mg, 3%. 1H NMR (CD3OD) δ 8.12 (s, 1H), 7.29 (s, 1H), 5.44 (s, 2H), 4.22 (m, 1H), 2.65 (s, 3H), 2.14–2.05, 1.94–1.37, 0.99–0.80 (3×m, 21H), 1.18 (t, 1H, J=12.2 Hz). LRMS ESI (M+H+) 453.2.

reactant | 2-{2-[1-(S)-Hydroxy-3(R)-methyl-1-cyclohexyl]ethyn-1-yl}-N6-(3-pentyl)adenine | 0.1640 mmol, 56 mg | O[C@@]1(C[C@@H](CCC1)C)C#CC1=NC(=C2NC=NC2=N1)NC(CC)CC | C19H27N5O
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 0.6899 mmol, 127 mg | Cl.ClCC=1N=C(SC1)C
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-{2-[1(S)-Hydroxy-3(R)-methyl-1-cyclohexyl]ethyn-1-yl}-9-(2-methyl-thiazol-5-ylmethyl)-N6-(3-pentyl)adenine | O[C@@]1(C[C@@H](CCC1)C)C#CC1=NC(=C2N=CN(C2=N1)CC1=CN=C(S1)C)NC(CC)CC | C24H32N6OS
